US05262540
Methyl 3-[4-[(4,5-diphenyl-2oxazolyl)methoxy]phenyl]propanoate
Reaction of 2-bromomethyl-4,5-diphenyloxazole and methyl 3-(4-hydroxyphenyl)propanoate according to the procedure of Example 17 provided the title compound, m.p. 92°-95° C.

reactant | 2-bromomethyl-4,5-diphenyloxazole | BrCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12BrNO
reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
product | Methyl 3-[4-[(4,5-diphenyl-2oxazolyl)methoxy]phenyl]propanoate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C26H23NO4
